US08044052B2
(3-Benzyloxy-benzyl)-phosphonic acid diethyl ester
1-Benzyloxy-3-bromomethyl-benzene (4.95 g, 17.9 mmol) was treated with triethyl phosphite (3.2 mL, 18.7 mmol) and heated to 150° C. After 3 hours the reaction was cooled to room temperature and concentrated to give the title compound which was used without further purification (5.9 g).

reactant | 1-Benzyloxy-3-bromomethyl-benzene | 17.9 mmol, 4.95 g | C(C1=CC=CC=C1)OC1=CC(=CC=C1)CBr | C14H13BrO
reactant | triethyl phosphite | 18.7 mmol, 3.2 mL | P(OCC)(OCC)OCC | C6H15O3P
product | (3-Benzyloxy-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C18H23O4P
